US05047411
To a solution of fuming nitric acid (d.l.50) (80 ml) was portionwise added 3-methyl-2-[2-(4-acetamidophenyl)ethyl]pyridine (16.2 g) at -15° to 15° C. and the mixture was stirred at the same condition for 30 minutes. The resultant solution was poured into an ice-water and the solution was adjusted to pH 8.0 with 20% aqueous sodium hydroxide. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran, and the extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diethyl ether to give 3-methyl-2-[2-(4-acetamido-3-nitrophenyl)ethyl]pyridine (16.9 g).

reactant | 3-methyl-2-[2-(4-acetamidophenyl)ethyl]pyridine | 16.2 g | CC=1C(=NC=CC1)CCC1=CC=C(C=C1)NC(C)=O | C16H18N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | nitric acid | 80 ml | [N+](=O)(O)[O-] | HNO3
product | 3-methyl-2-[2-(4-acetamido-3-nitrophenyl)ethyl]pyridine | 16.9 g | CC=1C(=NC=CC1)CCC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C16H17N3O3
